US07217724B2
2-Methyl-1-(morpholin-4-ylcarbonyl)propyl 4-methylbenzenesulfonate
Under ice-cooling, to a solution of 60% sodium hydride (136 mg, 3.41 mmol) in tetrahydrofuran (5 mL) is added dropwise a solution of 3-methyl-1-morpholin-4-yl-1-oxobutan-2-ol (426 mg, 2.27 mmol) in tetrahydrofuran (15 mL), and the mixture is stirred at room temperature for 2 hours. To the reaction solution is added p-toluene-sulfonyl chloride (651 mg, 3.42 mmol), and the mixture is stirred at room temperature for 2 hours. After the reaction is completed, water is added to the mixture, and the mixture is extracted with ethyl acetate. This organic layer is washed with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is removed by distillation, and the obtained residue is purified by silica gel column chromatography (chloroform) to give the title compound (701 mg, yield: 90%).

reactant | sodium hydride | 3.41 mmol, 136 mg | [H-].[Na+]
reactant | 3-methyl-1-morpholin-4-yl-1-oxobutan-2-ol | 2.27 mmol, 426 mg | CC(C(C(=O)N1CCOCC1)O)C | C9H17NO3
reactant | p-toluene-sulfonyl chloride | 3.42 mmol, 651 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-Methyl-1-(morpholin-4-ylcarbonyl)propyl 4-methylbenzenesulfonate | 701 mg, yield: 90% | CC1=CC=C(C=C1)S(=O)(=O)OC(C(C)C)C(=O)N1CCOCC1 | C16H23NO5S
